*Constant gm Current Reference by Jeph Daligdig

vdd vdd gnd 1.8

*connectors

mc1 n1 vb4 vdd vdd pch L=10u W=3u m=16
mc2 vg2 vb3 n1 vdd pch L=10u W=3u m=16

*current reference

m31 c vb4 vdd vdd pch L=10u W=3u m=16
m32 e vb4 vdd vdd pch L=10u W=3u m=16
m33 vb4 vb3 c vdd pch L=10u W=3u m=16
m34 f vb3 e vdd pch L=10u W=3u m=16

m35 vb4 vb2 d gnd nch L=10u W=3u m=11

m36 vb1 vb2 h gnd nch L=10u W=3u m=16

m37 d vb1 gnd gnd nch L=9u W=3u m=26

m38 h f gnd gnd nch L=12u W=4u m=18

*cascode bias
m2 i vb4 vdd vdd pch L=9.375u W=3u m=26
m3 vb2 vb3 i vdd pch L=9.375u W=3u m=26

m8 vb3 vb2 l gnd nch L=9.375u W=3u m=21

m9 l vb1 gnd gnd nch L=9.375u W=3u m=36

m12 vb2 vb2 gnd gnd nch L=9.375u W=3u m=4
m46 vb3 vb3 vdd vdd pch L=9.375u W=3u m=4

*start-up
m14 vb3 m gnd gnd nch L=9.375u W=3u m=16
m15 vb4 m gnd gnd nch L=9.375u W=3u m=16
m16 m vb2 gnd gnd nch L=9.375u W=3u m=16

m17 m gnd vdd vdd pch L=9.35u W=3u m=1

R f vb1 1.3591k

*Constant gm Functions

.dc vdd 0 1.8 0.1
.dc vdd 1.62 1.98 0.001

*Two Stage Op Amp

mp4 vx vg1 vdd vdd pch w=11.345u l=1.5u
mp3 vg1 vg1 vdd vdd pch w=11.345u l=1.5u
mn2 vg1 vinp vs1 gnd nch w=6.654u l=1.5u
mn1 vx vinn vs1 gnd nch w=6.654u l=1.5u
mn5 vs1 vg2 gnd gnd nch w=10.265u l=1.5u
mn8 vg2 vg2 gnd gnd nch w=10.265u l=1.5u
mp6 vout vx vdd vdd pch w=67u l=1.5u
mn7 vout vg2 gnd gnd nch w=32u l=1.5u

vinp vinp gnd dc 1.1v ac 0v
vinn vinn gnd dc 1.1v ac 1v
cload vout gnd 10p
cc vc vout 3p 
rc vx vc 10.423k


*Two stage Amp functions 

.meas ac gb when vdb(vout)=0
.ac dec 100 10 10g
.probe v(vx), v(vout)
.tf v(vout) vinp
.pz v(vout) vinp


*End Functions common to both 

.op
.OPTION post probe
.global vdd gnd
.lib mm018.l TT


.end



